US06872718B1
3,5,6,7-Tetrahydro-2-(iodomethyl)-2,4,6,6,8-pentamethyl-2H-furo[2,3-f]indole
To a solution of 2,3,6,7-tetrahydro-2-(iodomethyl)-2,4,6,6,8-pentamethyl-5H-furo[2,3-f]indole-5-carbaldehyde (2.42 g, 6.06 mmol) in methanol (10 ml) was added concentrated hydrochloric acid (3 ml), and heated under reflux for 2.5 hours under nitrogen atmosphere. The reaction mixture was added dropwise to a mixture of sodium hydrogen carbonate (3.7 g, 44 mmol) with water-ethyl acetate, neutralized and extracted three times with ethyl acetate. The organic layers were combined, washed with water and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to obtain 2.20 g of the title compound.

reactant | 2,3,6,7-tetrahydro-2-(iodomethyl)-2,4,6,6,8-pentamethyl-5H-furo[2,3-f]indole-5-carbaldehyde | 6.06 mmol, 2.42 g | ICC1(CC=2C(=C(C=3CC(N(C3C2C)C=O)(C)C)C)O1)C | C17H22INO2
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | sodium hydrogen carbonate | 44 mmol, 3.7 g | C(O)([O-])=O.[Na+]
reactant | water ethyl acetate | O.C(C)(=O)OCC
solvent | methanol | 10 ml | CO | CH4O
product | 3,5,6,7-Tetrahydro-2-(iodomethyl)-2,4,6,6,8-pentamethyl-2H-furo[2,3-f]indole | 2.20 g, Yield: 98% | ICC1(CC=2C(=C(C=3CC(NC3C2C)(C)C)C)O1)C | C16H22INO
